US06982335B2
2,4-Dimethoxybenzonitrile, (R)-cysteine ethyl ester and about 5 equivalents of triethylamine are refluxed in ethanol for about 6–8 hours to obtain ethyl-2-(2,4-dimethoxyphenyl)-4,5-dihydro-thiazole-4-(R)-carboxylate.

reactant | 2,4-Dimethoxybenzonitrile | COC1=C(C#N)C=CC(=C1)OC | C9H9NO2
reactant | (R)-cysteine ethyl ester | C(C)OC([C@@H](N)CS)=O | C5H11NO2S
reactant | triethylamine | about 5 equivalents | C(C)N(CC)CC | C6H15N
solvent | ethanol | C(C)O | C2H6O
product | ethyl-2-(2,4-dimethoxyphenyl)-4,5-dihydro-thiazole-4-(R)-carboxylate | C(C)OC(=O)[C@H]1N=C(SC1)C1=C(C=C(C=C1)OC)OC | C14H17NO4S
